US07132425B2
A large steel reaction vessel was charged with a solution of 5-fluoro-pyrazine-2-carboxylic acid methyl ester (17.45 g, 111.78 mmol) in tetrahydrofuran (200 mL). The reaction solution was cooled to 0° C. and was saturated with ammonia gas over 2–3 h. The vessel was then tightly sealed. The reaction was then mechanically agitated and allowed to warm to 25° C. overnight. The vessel was then cooled to −78° C. for 15–20 min, the vessel was carefully vented, and the contents of the vessel were diluted with diethyl ether (100 mL). The resulting precipitate was isolated via filtration, rinsed with petroleum ether (2×100 mL), and air-dried to afford 5-amino-pyrazine-2-carboxylic acid methyl ester (16.97 g, 99%) as an off-white solid: mp 229–231° C.; EI-HRMS m/e calcd for C6H7N3O2 (M+) 153.0538, found 153.0537.

reactant | 5-fluoro-pyrazine-2-carboxylic acid methyl ester | 111.78 mmol, 17.45 g | COC(=O)C1=NC=C(N=C1)F | C6H5FN2O2
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 5-amino-pyrazine-2-carboxylic acid methyl ester | 16.97 g, 99% | COC(=O)C1=NC=C(N=C1)N | C6H7N3O2
